* /Users/jessshoes/Library/CloudStorage/OneDrive-Personal/Documents/Circuits/2n3055.asc
Q1 P001 N002 P002 0 BC547B
RE P002 0 4
RC N001 P001 4k
R1 N001 N002 100k
R2 N002 0 20k
V1 N002 0 SINE(0 25m 150) AC 25m 0 Rser=16000
C1 Output P001 100µ
V2 N001 0 DC 4
R3 Output 0 7.8k
.model NPN NPN
.model PNP PNP
.lib /Users/jessshoes/Library/Application Support/LTspice/lib/cmp/standard.bjt
.op
.tran 0 10m
.backanno
.end
